US06903113B2
N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N′-(2-furoyl)thiourea
Using the method of Examples 36-45, 2-furoylisothiocyanate was reacted with 1-aminobutyl)-2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 431.887.

reactant | 2-furoylisothiocyanate | O1C(=CC=C1)C(=O)N=C=S | C6H3NO2S
reactant | 2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1NC2=C(C(=NC(=C2)C)N)N1 | C10H14N4O
product | N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N′-(2-furoyl)thiourea | NC1=NC(=CC2=C1N=C(N2CCCCNC(=S)NC(=O)C=2OC=CC2)COCC)C | C20H26N6O3S
